US05679683
4-Chloroindolo[3,2-d]pyrimidine hydrochloride (240 mg, 1 mmol, and benzylamine (1 mL) are stirred under a dry nitrogen atmosphere at 150 C. for 6 hours, and then concentrated under reduced pressure to give an oily soft solid which is dissolved in EtOAc (20 mL), and washed with saturated sodium bicarbonate solution (20 mL), water (3×15 mL), and brine (20 mL). The solution is dried (MgSO4) and the solvent is removed under reduced pressure. Trituration of the residue with dichloromethane, gives 4-benzylaminoindolo[3,2-d]pyrimidine (190 mg, 69%). 1H NMR (CDCl3): δ10.58 (1H, brs), 8.60 (1H, s), 8.08 (1H, d, J=8.0 Hz), 7.47-7.14 (8H, m), 4.82 (2H, d, J=5.6 Hz), 2.41 (1H, brs).

reactant | 4-Chloroindolo[3,2-d]pyrimidine hydrochloride | Cl.ClC=1C2=C(N=CN1)C=1C=CC=CC1N2
reactant | benzylamine | 1 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 4-benzylaminoindolo[3,2-d]pyrimidine | 190 mg, 69% | C(C1=CC=CC=C1)NC=1C2=C(N=CN1)C=1C=CC=CC1N2 | C17H14N4
